US04511573
To a solution of ethyl-4-(3-indolyl)butyrate (3.00 g) and imidazole (4.43 g) in dioxane (75 ml) stirring at 10° is added dropwise while stirring a solution of bromine (0.65 ml) in dioxane (25 ml) over a period of 2.5 hours. Immediately upon the addition of bromine the reaction mixture becomes a thick suspension. Additional dioxane (30 ml) is added to keep the reacton mixture more mobile. Upon complete addition to cooling bath is removed and the reaction mixture allowed to stir at room temperature overnight. The suspended solid is removed by vacuum filtration and the filtrate concentrated in vacuo to give an orange oil. This oil is suspended in either (100 ml) and extracted with 1N hydrochloric acid (1×50 ml). The aqueous layer is washed with ether (1×100 ml), made basic with 3 N sodium hydroxide (12 ml), and extracted with ether (2×100 ml). This ether extract is washed with brine, dried (MgSO4 ), filtered, and concentrated in vacuo to give an orange oil which becomes partially crystalline. This material (1.38 g) is dissolved in 20 ml ether and to the solution is added 0.65 ml of 7.1M ethanolic hydrogen chloride. The salt separates as an oil which crystallizes on addition of a few milliliters of ethanol to yield 2-(1-imidazolyl)-3-(-3-ethoxycarbonylpropyl)indole hydrochloride, m.p. 152°-155°.

reactant | ethyl-4-(3-indolyl)butyrate | 3.00 g | C(C)OC(CCCC1=CNC2=CC=CC=C12)=O | C14H17NO2
reactant | imidazole | 4.43 g | N1C=NC=C1 | C3H4N2
reactant | bromine | 0.65 ml | BrBr | Br2
reactant | hydrogen chloride | 7.1M, 0.65 ml | Cl | ClH
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 2-(1-imidazolyl)-3-(-3-ethoxycarbonylpropyl)indole hydrochloride | Cl.N1(C=NC=C1)C=1NC2=CC=CC=C2C1CCCC(=O)OCC | InChI=1S/C17H19N3O2.ClH/c1-2-22-16(21)9-5-7-14-13-6-3-4-8-15(13)19-17(14)20-11-10-18-12-20;/h3-4,6,8,10-12,19H,2,5,7,9H2,1H3;1H
